US06391887B1
7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one 8-Methyl-7-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
The mixture that consists of 6-nitro-2,3,3a,8a-tetrahydro-1H-cyclopentta]inden-8-one and 5-methyl-6-nitro-2,3,3a,8a-tetrahydro-1H-cyclopent[a]inden-8-one (3.76 g) is dissolved with hydroxylammonium sulfate (5.58 g, 34 mmol) and sodium acetate (9.25 g, 68 mmol) in THF-ethanol-water 1:1:1 (180 ml). The batch is stirred for 6 hours at 60° C., left for three days at room temperature, concentrated by evaporation, diluted with ether, washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is purified on silica gel with the eluant ether-hexane. Yield: 3.76 g; the oxime mixture is dissolved at 120° C. in polyphosphoric acid. The batch is stirred for four hours at 120° C., it is poured onto ice water after cooling and extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is prepurified on silica gel with ethyl acetate-hexane, and the mixture is then separated using preparative HPLC (LC.50 Novapak column, eluant: methanol-aqueous ammonium acetate solution):

reactant | 5-methyl-6-nitro-2,3,3a,8a-tetrahydro-1H-cyclopent[a]inden-8-one | 3.76 g | CC=1C(=CC=2C(C3C(C2C1)CCC3)=O)[N+](=O)[O-] | C13H13NO3
reactant | hydroxylammonium sulfate | 34 mmol, 5.58 g | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | sodium acetate | 68 mmol, 9.25 g | C(C)(=O)[O-].[Na+]
solvent | THF ethanol water | 180 ml | C1CCOC1.C(C)O.O
product | 7-Nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one 8-Methyl-7-nitro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | CC1=CC=2C3C(C(NC2C=C1[N+](=O)[O-])=O)CCC3.[N+](=O)([O-])C=3C=CC=1C2C(C(NC1C3)=O)CCC2 | InChI=1S/C13H14N2O3.C12H12N2O3/c1-7-5-10-8-3-2-4-9(8)13(16)14-11(10)6-12(7)15(17)18;15-12-10-3-1-2-8(10)9-5-4-7(14(16)17)6-11(9)13-12/h5-6,8-9H,2-4H2,1H3,(H,14,16);4-6,8,10H,1-3H2,(H,13,15)
